US05093364
Sodium hydride (0.41 g of 80% suspension in oil) was added to a solution of 7-fluoro-1H-3,1-benzoxazine-2,4-dione (2.5 g) in dimethylformamide (30 ml). The mixture was cooled to keep the temperature below 30° and then stirred for 1 hour until a clear solution was obtained. A solution of allyl bromide (1.2 ml) in dimethylformamide (30 ml) was added dropwise with cooling and the mixture stirred at room temperature overnight. The mixture was poured into water and extracted with dichloromethane. The extract was washed with water, dried and evaporated and the residue added to aqueous sodium carbonate (10%; 20 ml) and stirred for 3 hours, acidified with hydrochloric acid to pH 3, filtered and the solid washed with water and dried to give N-allyl-4-fluoroanthranilic acid, mp 136°-139°. (Compound 21).

reactant | Sodium hydride | 0.41 g | [H-].[Na+]
reactant | 7-fluoro-1H-3,1-benzoxazine-2,4-dione | 2.5 g | FC1=CC2=C(C(OC(N2)=O)=O)C=C1 | C8H4FNO3
reactant | allyl bromide | 1.2 ml | C(C=C)Br | C3H5Br
reactant | water | O | H2O
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | N-allyl-4-fluoroanthranilic acid | C(C=C)NC=1C(C(=O)O)=CC=C(C1)F | C10H10FNO2
